US05604252
Fifty grams (254.78 mmol) of diphenylacetaldehyde (Aldrich) and 18.66 g (305.73 mmol) of nitromethane was dissolved in 635 mL of dichloromethane. The stirred solution was treated with 35 g of 3Å molecular sieves followed by 11.64 g (76.43 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (Aldrich) and stirred overnight at room temperature. The reaction mixture was filtered and the filtrate was treated with 700 mL of 2N aqueous HCl. The organic layer was separated and washed with saturated brine solution, dried with sodium sulfate and evaporated in vacuo. The residue was treated with 600 mL of hexane and stirred overnight whereupon crystallization occurred. After isolation there was obtained 38.22 g (58%) of 3,3-diphenyl-2-hydroxy-l-nitropropane as a pale yellow solid which was used directly in the following step.

reactant | diphenylacetaldehyde | 254.78 mmol, Fifty grams | C1(=CC=CC=C1)C(C=O)C1=CC=CC=C1 | C14H12O
reactant | nitromethane | 305.73 mmol, 18.66 g | [N+](=O)([O-])C | CH3NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 76.43 mmol, 11.64 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 635 mL | ClCCl | CH2Cl2
product | 3,3-diphenyl-2-hydroxy-l-nitropropane | 38.22 g, 58% | C1(=CC=CC=C1)C(C(C[N+](=O)[O-])O)C1=CC=CC=C1 | C15H15NO3
